US07601850B2
A. 2-(t-Butyldimethylsilyloxy)-5-bromotoluene
To a 0° C. mixture of 2-hydroxy-5-bromotoluene(48.63 g, 260 mmol), DMF (260 ml), imidazole (18.58 g, 273 mmol) is added t-butyldimethylsilyl chloride (41.15 g, 273 mol) in portions. After stirring for 30 m, the reaction is warmed to RT and stirred for 16 h. The reaction mixture is poured into ice/water (1.25 l) and extracted with Et2O. The organic layer is washed with water (2×100 ml), 1N NaOH (2×5 ml), water, brine, MgSO4 dried, concentrated, chromatographed (hex), and azeotroped with toluene to give the title compound as an oil (75.7 g, 97%)

reactant | 2-hydroxy-5-bromotoluene | 260 mmol, 48.63 g | OC1=C(C=C(C=C1)Br)C | C7H7BrO
reactant | imidazole | 273 mmol, 18.58 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 273 mol, 41.15 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 260 ml | CN(C)C=O | C3H7NO
product | 2-(t-Butyldimethylsilyloxy)-5-bromotoluene | 75.7 g, 97% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)Br)C | C13H21BrOSi
